US08242125B2
130-B. 3-(2,5-Dimethyl-pyrrol-1-yl)-1-methyl-5-(2,2,2-trifluoro-1-methoxy-1-methyl-ethyl)-1H-pyrazole
To a solution of 2-[5-(2,5-dimethyl-pyrrol-1-yl)-2-methyl-2H-pyrazol-3-yl]-1,1,1-trifluoro-propan-2-ol (0.5 g, 1.7 mmol) in THF (10 mL) at 0° C., sodium hydride (0.21 g, 60%, 5.2 mmol) is added, and the mixture is stirred for 10 min followed by the addition of methyl iodide (0.22 mL, 3.5 mmol). The ice bath is removed and the reaction mixture is stirred at room temperature for 5 hour, poured into water, separated, and the water layer is extracted with DCM. The organic layers are combined and concentrated. The residue is purified by FCC to give the title compound. MS (ESI) m/z 302.0 (M+1).

reactant | 2-[5-(2,5-dimethyl-pyrrol-1-yl)-2-methyl-2H-pyrazol-3-yl]-1,1,1-trifluoro-propan-2-ol | 1.7 mmol, 0.5 g | CC=1N(C(=CC1)C)C=1C=C(N(N1)C)C(C(F)(F)F)(C)O | C13H16F3N3O
reactant | sodium hydride | 5.2 mmol, 0.21 g | [H-].[Na+]
reactant | methyl iodide | 3.5 mmol, 0.22 mL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(2,5-Dimethyl-pyrrol-1-yl)-1-methyl-5-(2,2,2-trifluoro-1-methoxy-1-methyl-ethyl)-1H-pyrazole | CC=1N(C(=CC1)C)C1=NN(C(=C1)C(C(F)(F)F)(C)OC)C | C14H18F3N3O
